US07468365B2
Synthesis of (S)-1-amino-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-2-one hydrochloric acid salt
(S)-1-Amino-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-2-one (R)-mandelic acid salt (2.42 g, 7.06 mmol, 98.4% ee) was slurried in 25 mL ethyl acetate at ambient temperature. Concentrated aqueous hydrochloric acid (1.1 mL, about 11.2 mmol) was added and the mixture was heated to 50° C. with vigorous stirring for 3.5 hours. The slurry was cooled to ambient temperature and filtered, rinsed with the methyl t-butyl ether (about 10 mL) to give 1.48 g of the title compound (92.5% yield, 97.9% ee).

reactant | (S)-1-Amino-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-2-one (R)-mandelic acid salt | 7.06 mmol, 2.42 g | C([C@H](O)C1=CC=CC=C1)(=O)O.N[C@@H]1C(N(CCC2=C1C=CC=C2)C)=O
reactant | hydrochloric acid | about 11.2 mmol, 1.1 mL | Cl | ClH
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | (S)-1-amino-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-2-one hydrochloric acid salt | 1.48 g, 92.5% yield | Cl.N[C@@H]1C(N(CCC2=C1C=CC=C2)C)=O | InChI=1S/C11H14N2O.ClH/c1-13-7-6-8-4-2-3-5-9(8)10(12)11(13)14;/h2-5,10H,6-7,12H2,1H3;1H/t10-;/m0./s1
